Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
latex / tizanidine
 
Attending: ___.
 
Chief Complaint:
chest pain 
 
Major Surgical or Invasive Procedure:
NOne 
 
History of Present Illness:
___ with history of BPH, HLD, RA, ankylosing spondylitis and R
femoral artery bypass2 months ago presents with chest pain.

On the morning of ___, he awoke in his usual state of health 
when
he noticed the sudden onset of right sided chest pain with
associated dizziness, palpitations. This resolved spontaneously
and he went to walk his dog when he experienced another episode
with similar symptoms in addition to weakness and diaphoresis.
This prompted him to present to the ED at ___. 

Upon presentation he was Hemodynamically stable with HRs in the
___ and SBPs in the 120s-150s. He was without hypoxia. ECG was
noted to have prequent PVCs. 

Labs on presentation noted a normal CBC and Chem7 with negative
troponins x3 with a normal pro-BNP (134). 

He was admitted for ACS rule out given his cardiac risk factors.
He underwent a LHC on ___ by Dr. ___ demonstrated 
90%
ostial stenosis of the LAD, 60% stenosis of the Diag 1 along 
with
80% ostial stenosis of the LCx (see below for more details). He
was managed medically with asa, Clopidogrel, atorvastatin, beta
blockade and isosorbide.

The patient was then discharged on ___ with outpatient follow 
up.
He was doing well at home until ___ when he noted the 
recurrence
of his symptoms though he states they are less severe than his
initial presentation. He reports no medication non-compliance.

Upon presentation he was Hemodynamically stable with normal CBC
and Chem7. Trop was negative x3 and Pro-BNP was 113.

He received 3mg IV morphine, 324mg ASA. Cardiology evaluated 
cath
films and recommended transfer to ___ for possible PCI.
Discussed with Dr. ___ agreed to transfer to ___ for
further management. He was given a nitro patch and sent via ACLS
ambulance.

On the floor the patient notes frequent hiccups which are new
since leaving the other hospital. He currently notes no chest
discomfort or dyspnea but does endorse some "neck fullness". He
has no fevers or chills. He has no nausea/vomiting or diarrhea.

 
Past Medical History:
CAD
HLD
BPH
RA
Ankylosis Spondylitis
PVD s/p femoral artery bypass

 
Social History:
___
Family History:
Fatal Myocardial Infarction in father in his ___.
 
Physical Exam:
Admission physical exam:
=======================
VS:  T 99.0 BP 158/71 HR 72 R 18 SpO2 95 Ra  
GEN: NAD
HEENT: Clear OP
___: RRR, No MRG
RESP: No increased work of breathing. No wheezing, crackles or
rhonchi. Frequent Hiccups
ABD: NTND No HSM
EXT: Warm, no edema

Discharge Exam:
=====================
24 HR Data (last updated ___ @ 528)
    Temp: 98.2 (Tm 98.8), BP: 132/58 (131-166/50-76), HR: 58
(58-82), RR: 18 (___), O2 sat: 100% (96-100), O2 delivery: RA  


GEN: lying in bed comfortably, NAD
___: RRR, No MRG
RESP: No increased work of breathing. No wheezing, crackles or
rhonchi. 
ABD: NTND No HSM
EXT: Warm, no edema 

 
Pertinent Results:
Admission Labs:
======================
___ 09:34PM BLOOD WBC-14.8* RBC-4.72 Hgb-14.5 Hct-40.1 
MCV-85 MCH-30.7 MCHC-36.2 RDW-12.5 RDWSD-38.2 Plt ___
___ 03:15AM BLOOD Neuts-81.4* Lymphs-12.3* Monos-5.4 
Eos-0.1* Baso-0.3 Im ___ AbsNeut-10.46* AbsLymp-1.58 
AbsMono-0.69 AbsEos-0.01* AbsBaso-0.04
___ 09:34PM BLOOD ___ PTT-28.6 ___
___ 09:34PM BLOOD Glucose-132* UreaN-26* Creat-0.9 Na-139 
K-4.7 Cl-102 HCO3-20* AnGap-17
___ 09:34PM BLOOD CK-MB-3 cTropnT-<0.01
___ 03:15AM BLOOD CK-MB-4 cTropnT-<0.01
___ 09:34PM BLOOD Calcium-9.3 Phos-3.7 Mg-2.2
___ 03:15AM BLOOD %HbA1c-5.4 eAG-108
___ 03:15AM BLOOD Triglyc-91 HDL-53 CHOL/HD-3.3 LDLcalc-102

Imaging:
========================
___ CXR
Heart size is normal.  Mediastinum is normal.  Lungs are clear.  
There is no pleural effusion.  There is no pneumothorax.  No 
evidence of pneumonia is demonstrated to explain leukocytosis. 

___ Cardiac perfusion study:
1. Normal myocardial perfusion. 
2. Increased left ventricular cavity size with normal systolic 
function. 

___ Stress test:
INTERPRETATION: ___ yo man with HL and PVD s/p femoral artery 
bypass 
in ___, cardiac catheterization on ___ revealing 
severe 
2-vessel CAD with 90% ostial D1, 80% ostial OM1 and 60% mid-LAD 
was 
referred to evaluate an atypical chest discomfort. The patient 
completed 
10.5 minutes of a modified ___ protocol representing an 
average 
exercise tolerance for his age; ~ ___ METS. The exercise test 
was 
stopped due to progressive shortness of breath and leg fatigue. 
Prior to 
exercise, the patient reported mild anterior chest burning that 
he 
reportedly woke up with and improved with breakfast and calcium 
carbonate. This discomfort did not change in intensity during 
the 
procedure. Early post-exercise the patient reported a mild 
(___) 
left-sided chest tightness which resolved slowly with rest and 
was 
absent 10 minutes post-exercise. The patient also reported neck 
and 
throat discomfort post-exercise that improved and was absent by 
10 
minutes post-exercise. No significant ST segment changes were 
noted 
during the procedure. The rhythm was sinus with rare isolated 
APBs and 
one atrial couplet. Rare isolated VPBs were also noted. The 
hemodynamic 
response to exercise was appropriate. 
  
IMPRESSION: Average exercise tolerance for age. Atypical 
symptoms with 
no ischemic ST segment changes. Appropriate hemodynamic response 
to 
exercise. Nuclear report sent separately. 

Discharge labs:
====================
___ 06:10AM BLOOD WBC-7.7 RBC-4.99 Hgb-15.1 Hct-43.4 MCV-87 
MCH-30.3 MCHC-34.8 RDW-12.8 RDWSD-40.2 Plt ___
___ 06:10AM BLOOD Neuts-56.4 ___ Monos-7.2 Eos-2.1 
Baso-1.2* Im ___ AbsNeut-4.33 AbsLymp-2.51 AbsMono-0.55 
AbsEos-0.16 AbsBaso-0.09*
___ 06:10AM BLOOD Glucose-85 UreaN-23* Creat-0.9 Na-141 
K-4.8 Cl-104 HCO3-22 AnGap-___ with HLD, RA and known 2 vessel CAD s/p recent coronary 
angiography presents with recurrent chest pain. Transferred to 
___ for further evaluation given cath with 90% ostial ___ diag, 
80% LCX ostial OM1, 60% mid LAD. Stress testing without 
inducible ischemia and with atypical symptoms. Medical 
management of CAD optimized prior to discharge with follow up 
with PCP/cardiology. 

#Coronaries: 90% ostial ___ diag, 80% LCX ostial OM1, 60% mid 
LAD
#Pump: EF 60% 
#Rhythm: NSR 

===============
ACTIVE ISSUES: 
===============
#Coronary Artery Disease:
#Atypical Angina:
Patient presented with chest pain at rest after recently being 
discharged from ___ for concern of unstable angina with coronary 
angiography demonstrating 90% ostial ___ diag, 80% LCX ostial 
OM1, 60% mid LAD disease. No PCI was performed at that time and 
he was treated medically. The patient had recurrent chest pain 
on current medical therapy. Negative trops. Given atypical 
symptoms underwent stress testing with atypical symptoms and no 
ischemic ST segment changes. Perfusion study without 
abnormalities. He was continued on ASA 81, metoprolol uptitrated 
to 25mg q6hr and started on lisinopril 5mg for blood pressure 
control. Plavix and isosorbide were discontinued given stress 
test results. 

#Leukocytosis: 
CXR and UA negative without local symptoms of infection. WBC 
downtrended without intervention and may have been a stress 
response. 

================
CHRONIC ISSUES:
================
#Rheumatoid Arthritis
#Ankylosing Spondylitis:
Stable, not on any medications.

#BPH: continued on home tamsulosin 

Transitional Issues:
==========================
[] started on lisinopril 5mg, please check BMP in 1 week at PCP 
follow up 
[] started on PPI for possible component of GERD in chest 
discomfort. Please re-evaluate symptoms and consider uptitrating 
as needed

New medications: Lisinopril, omeprazole 
Changed meds: Metoprolol 25mg BID to Metop succinate 100mg daily 

Discontinued meds: Plavix, isosorbide mononitrate 

# CONTACT ___ (Wife)
___ (cell)
___ (Home)
# DISPO: ___, pending above 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Atorvastatin 40 mg PO QPM 
3. Clopidogrel 75 mg PO DAILY 
4. Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY 
5. Metoprolol Tartrate 25 mg PO BID 
6. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain 
7. Tamsulosin 0.8 mg PO QHS 

 
Discharge Medications:
1.  Lisinopril 5 mg PO DAILY 
RX *lisinopril 5 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
2.  Metoprolol Succinate XL 100 mg PO DAILY 
RX *metoprolol succinate 100 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0 
3.  Omeprazole 20 mg PO DAILY 
RX *omeprazole 20 mg 1 capsule(s) by mouth daily Disp #*30 
Capsule Refills:*0 
4.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
5.  Aspirin 81 mg PO DAILY  
6.  Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain  
7.  Tamsulosin 0.8 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
====================
Atypical chest pain 

Secondary diagnosis:
======================
Coronary artery disease
Hypertension 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  
 
 WHY WAS I IN THE HOSPITAL?  
 ==========================  
 - You were admitted because you were experiencing chest pain 
and were transferred to ___ for further evaluation 
 
 WHAT HAPPENED IN THE HOSPITAL?  
 ==============================  
 - You had a stress test performed to evaluate if the chest pain 
you had been experiencing at home is related to heart disease. 
Fortunately you did not have repeat episode of chest pain during 
this study. This is reassuring that the pain/pressure you 
experienced at home is unlikely to be caused by heart disease.  
- Your medications were optimized for coronary artery disease 
(blockages seen on your cath) as well as your blood pressure 

 WHAT SHOULD I DO WHEN I GO HOME?  
 ================================  
 - Please take all your medications as scheduled
 - You have been scheduled to follow up with a cardiologist as 
outpatient as well. Please ensure that you attend all your 
follow up appointments as below
 
 It was a pleasure taking care of you at the ___ 
___! 

- your ___ team 

 
Followup Instructions:
___